US08710050B2
N-(tert-Butyl)-2-amino-2-(4-fluorophenyl)ethanesulfonamide
A solution of 0.66 g of N-(tert-butyl)-2-(4-fluorophenyl)-2-oxoethanesulfonamide, 1.85 g of ammonium acetate and 0.17 g of sodium cyanoborohydride in 12 ml of methanol was stirred at 60° C. for 17 hours. After the removal of the solvent under reduced pressure, the residue was taken up in 50 ml of ethyl acetate and washed twice with 30 ml of 0.5 N aqueous sodium hydroxide solution and 30 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated by rotary evaporation.

reactant | N-(tert-butyl)-2-(4-fluorophenyl)-2-oxoethanesulfonamide | 0.66 g | C(C)(C)(C)NS(=O)(=O)CC(=O)C1=CC=C(C=C1)F | C12H16FNO3S
reactant | ammonium acetate | 1.85 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.17 g | C(#N)[BH3-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
product | N-(tert-Butyl)-2-amino-2-(4-fluorophenyl)ethanesulfonamide | C(C)(C)(C)NS(=O)(=O)CC(C1=CC=C(C=C1)F)N | C12H19FN2O2S
